US08207216B2
(6-Bromo-5-fluoro-1-methyl-1H-indol-3-yl)-oxo-acetic acid ethyl ester.
To a solution of 6-bromo-5-fluoro-1-methyl-1H-indol (0.23 g, 1.00 mmol) in Et2O (15.0 mL) cooled to 0° C. a 2.0 M solution of oxalyl chloride in dichloromethane (0.56 mL, 5.00 mmol) was added dropwise. The reaction was stirred for 0.5 h at 0° C. and allowed to warm to room temperature and stirred overnight. The mixture was cooled to −20° C. and dry EtOH (2 mL) was added. The reaction mixture was diluted with EtOAc, washed with water and brine, dried over Na2SO4 and concentrated. The residue was purified by column chromatography (ethyl acetate-hexane, 1:3) to give the product (0.21 g, 59%). 1H NMR (CDCl3, 300 MHz,): 1.43 (t, J=7.2 Hz, 3H), 3.82 (s, 3H), 4.40 (t, J=7.2 Hz, 2H), 7.47 (d, J=5.4 Hz, 1H), 8.08 (d, J=9.0 Hz, 1H), 8.30 (s, 1H).

reactant | 6-bromo-5-fluoro-1-methyl-1H-indol | 1.00 mmol, 0.23 g | BrC1=C(C=C2C=CN(C2=C1)C)F | C9H7BrFN
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 5.00 mmol, 0.56 mL | ClCCl | CH2Cl2
reactant | EtOH | 2 mL | CCO | C2H6O
solvent | Et2O | 15.0 mL | CCOCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (6-Bromo-5-fluoro-1-methyl-1H-indol-3-yl)-oxo-acetic acid ethyl ester | 0.21 g, 59% | C(C)OC(C(=O)C1=CN(C2=CC(=C(C=C12)F)Br)C)=O | C13H11BrFNO3
